US05057517
6-Chloro-2,9-dimethylpurine
This was prepared in a manner similar to that described in Example 9 for 6-chloro-9-methylpurine, except that 5-amino-4-chloro-2-methyl-6-methylaminopyrimidine was used as the starting material and the reaction was carried out at 60° C. for 6 hrs. The title compound was obtained in 97% yield.

reactant | 6-chloro-9-methylpurine | ClC1=C2N=CN(C2=NC=N1)C | C6H5ClN4
reactant | 5-amino-4-chloro-2-methyl-6-methylaminopyrimidine | NC=1C(=NC(=NC1NC)C)Cl | C6H9ClN4
product | 6-Chloro-2,9-dimethylpurine | 97% yield | ClC1=C2N=CN(C2=NC(=N1)C)C | C7H7ClN4
